US09169267B2
4-benzyltetrahydro[1,3]oxazolo[2,3-b][1,3]oxazol-4-ium bromide
A solution of 1.710 g (10 mmol) of benzyl bromide and 1.152 g (10 mmol) of tetrahydro-[1,3]oxazolo[2,3-b][1,3]oxazole in 20 ml of diisopropyl ether was stirred at the room temperature for 24 hours. The precipitate was filtered off, washed twice with diisopropyl ether and dried. 2.698 g (94.3%) of white amorphous product was obtained, which can be further purified by recrystallisation from rectified ethanol.

reactant | benzyl bromide | 10 mmol, 1.710 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | tetrahydro-[1,3]oxazolo[2,3-b][1,3]oxazole | 10 mmol, 1.152 g | O1CCN2C1OCC2 | C5H9NO2
solvent | diisopropyl ether | 20 ml | C(C)(C)OC(C)C | C6H14O
product | 4-benzyltetrahydro[1,3]oxazolo[2,3-b][1,3]oxazol-4-ium bromide | 2.698 g, 94.3% | [Br-].C(C1=CC=CC=C1)[N+]12C(OCC1)OCC2 | InChI=1S/C12H16NO2.BrH/c1-2-4-11(5-3-1)10-13-6-8-14-12(13)15-9-7-13;/h1-5,12H,6-10H2;1H/q+1;/p-1
